US08623859B2
N-{4-[(4-Hydroxypiperidin-1-yl)methyl]benzyl}-2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3-oxazole-4-carboxamide
The title compound was prepared according to general procedure BH using 2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3-oxazole-4-carboxylic acid (35 mg, 0.12 mmol), EDCI (26 mg, 0.14 mmol), HOBt (20 mg, 0.15 mmol) DIPEA (0.035 mL, 0.2 mmol), 1-{4-[(methylamino)methyl]benzyl}piperidin-4-ol dihydrochloride (32 mg, 0.14 mmol) and DCM (10 mL).

reactant | 2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3-oxazole-4-carboxylic acid | 0.12 mmol, 35 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC=1OC=C(N1)C(=O)O)C | C15H18N2O6S
reactant | EDCI | 0.14 mmol, 26 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.15 mmol, 0.035 mL, 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-{4-[(methylamino)methyl]benzyl}piperidin-4-ol dihydrochloride | 0.14 mmol, 32 mg | Cl.Cl.CNCC1=CC=C(CN2CCC(CC2)O)C=C1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[(4-Hydroxypiperidin-1-yl)methyl]benzyl}-2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3-oxazole-4-carboxamide | OC1CCN(CC1)CC1=CC=C(CN(C(=O)C=2N=C(OC2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1 | C29H38N4O6S
